US07161005B2
A mixture of 3.99 g (16 mmol) of 1′H-[2,2′;6′,2″]terpyridin-4′-one (L1) and 8.0 g (38 mmol) of phosphorus pentachloride is boiled at reflux in 200 ml of phosphorus oxychloride for sixteen hours. The mixture is allowed to cool and concentrated to dryness. 200 ml of ice-water are then added cautiously to the residue, and the solution is then adjusted to pH 9 with aqueous potassium hydroxide solution. Extracton is carried out three times using chloroform and the organic extracts are dried over sodium sulfate, filtered and concentrated. After recrystallisation from ethanol, 4′-chloro-[2,2′;6′,2″]terpyridine is obtained in the form of white needles. 1H-NMR (CDCl3, 360 MHz): 7.20–7.29 (m, 2H); 7.70–7.79 (tm, 2H); 8.37 (s, 2H); 8.47 (d, 2H; 7.6 Hz); 8.56–8.63 (dm, 2H).

reactant | 1′H-[2,2′;6′,2″]terpyridin-4′-one | 16 mmol, 3.99 g | N1=C(C=CC=C1)C=1NC(=CC(C1)=O)C1=NC=CC=C1 | C15H11N3O
reactant | phosphorus pentachloride | 38 mmol, 8.0 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4′-chloro-[2,2′;6′,2″]terpyridine | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
